US09107415B2
A solution of 2-(4-bromo-2,6-dimethylphenyl)-5-[hydroxy(tetrahydropyran-4-yl)methyl]-3-methoxycyclopent-2-enone (16.0 g, 39.0 mmol) in a mixture of acetone (320 ml) and 2N hydrochloric acid (160 ml) is heated at 13°C. under microwave irradiation for 40 minutes. Volatile solvents are removed in vacuo, followed by the addition of distilled water (250 ml) and extraction with ethyl acetate (3×150 ml). The combined organic extracts are washed with water, brine, dried over sodium sulphate, then filtered and the filtrate concentrated in vacuo. The residue is finally purified by flash column chromatography to afford 2-(4-bromo-2,6-dimethylphenyl)-4-[1-(tetrahydropyran-4-yl)methylidene]cyclopentane-1,3-dione.

reactant | 2-(4-bromo-2,6-dimethylphenyl)-5-[hydroxy(tetrahydropyran-4-yl)methyl]-3-methoxycyclopent-2-enone | 39.0 mmol, 16.0 g | BrC1=CC(=C(C(=C1)C)C=1C(C(CC1OC)C(C1CCOCC1)O)=O)C | C20H25BrO4
solvent | acetone | 320 ml | CC(=O)C | C3H6O
solvent | hydrochloric acid | 2N, 160 ml | Cl | ClH
product | 2-(4-bromo-2,6-dimethylphenyl)-4-[1-(tetrahydropyran-4-yl)methylidene]cyclopentane-1,3-dione | BrC1=CC(=C(C(=C1)C)C1C(CC(C1=O)=CC1CCOCC1)=O)C | C19H21BrO3
